US05604229
Sodium (0.23 g) was added to 15 ml of absolute ethanol and the mixture was stirred at room temperature for 30 minutes in a nitrogen flow to give a 10 mmol solution of sodium ethoxide in ethanol. To this solution, 1.98 g of diethyl 2-acetamidomalonate was added and the mixture was heated at 50° C. for 30 minutes in a stream of nitrogen. 3-Phenylpropyl bromide was added thereto at room temperature and the mixture was refluxed under heating for 24 hours. The mixture was neutralized with dilute hydrochloric acid and ethanol was distilled away. The resultant residue was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled away and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4-1:1) and recrystallized from diisopropyl ether-hexane to give 800 mg of diethyl 2-acetamido-2-(3-phenylpropyl)malonate as white crystals.

reactant | diethyl 2-acetamidomalonate | 1.98 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 3-Phenylpropyl bromide | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | diethyl 2-acetamido-2-(3-phenylpropyl)malonate | 800 mg | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCCC1=CC=CC=C1 | C18H25NO5
